US05081145
3-[1-(4-chlorobenzyl)-3-methyl-5-fluoroindol-2-yl]-2-methyl-butanoic acid
Following the method of Example 2, but using 1-[4-chlorobenzyl]-1-(4-fluorophenyl) hydrazine hydrochloride and ethyl 2,3-dimethyl-4-oxohexanoate as starting materials, the title compound was prepared.

reactant | 1-[4-chlorobenzyl]-1-(4-fluorophenyl) hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1
reactant | ethyl 2,3-dimethyl-4-oxohexanoate | CC(C(=O)OCC)C(C(CC)=O)C | C10H18O3
product | 3-[1-(4-chlorobenzyl)-3-methyl-5-fluoroindol-2-yl]-2-methyl-butanoic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)F)C)C(C(C(=O)O)C)C)C=C1 | C21H21ClFNO2
